US07205302B2
1-[3-(benzyloxy)phenyl]-2-(methylamino)ethane
1.07 g of aluminum lithium hydride was suspended in 20 ml of tetrahydrofuran and a solution of 4.78 g of 1-[3-(benzyloxy)phenyl]-2-(formylamino)ethane in 10 ml of tetrahydrofuran was added dropwise at room temperature. The mixture was stirred at room temperature for 30 minutes and then heated at reflux for 2 hours. The reaction solution was ice-cooled and 1 ml of water, 1 ml of an aqueous 15% sodium hydroxide solution and 3 ml of water were added dropwise in order, followed by stirring for 30 minutes. The insoluble solid was removed by filtration and the solvent in the filtrate was evaporated under reduced pressure. The residue was purified by silica gel column chromatography to obtain 3.46 g of the desired compound as a pale yellow oily substance.

reactant | aluminum lithium hydride | 1.07 g | [H-].[Li+].[Al+3].[H-].[H-].[H-]
reactant | 1-[3-(benzyloxy)phenyl]-2-(formylamino)ethane | 4.78 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CCNC=O | C16H17NO2
reactant | water | 1 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 3 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-[3-(benzyloxy)phenyl]-2-(methylamino)ethane | 3.46 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CCNC | C16H19NO
